US08455488B2
Synthesis of (S)-tert-butyl 4-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetamido)-4-oxobutanoate (Compound II-71)
According to the procedure described in the synthesis method of Compound II-15, 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid (Compound VI-8) 93 mg (0.32 mmol) was coupled with (S)-tert-butyl 3-amino-4-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-4-oxobutanoate (Compound IV-18) 100 mg (0.22 mmol) to obtain the title compound.

reactant | 2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetic acid | 0.32 mmol, 93 mg | CN(NC(NCC1=CC=CC2=CC=CC=C12)=O)CC(=O)O | C15H17N3O3
reactant | (S)-tert-butyl 3-amino-4-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-4-oxobutanoate | 0.22 mmol, 100 mg | N[C@@H](CC(=O)OC(C)(C)C)C(=O)N([C@H](C(OCC)OCC)C)CC=1C2=C(SC1)C=CC=C2 | C24H36N2O5S
product | (S)-tert-butyl 4-((benzo[b]thiophen-3-ylmethyl)((S)-1,1-diethoxypropan-2-yl)amino)-3-(2-(1-methyl-2-(naphthalen-1-ylmethylcarbamoyl)hydrazinyl)acetamido)-4-oxobutanoate | S1C2=C(C(=C1)CN(C([C@H](CC(=O)OC(C)(C)C)NC(CN(NC(NCC1=CC=CC3=CC=CC=C13)=O)C)=O)=O)[C@H](C(OCC)OCC)C)C=CC=C2 | C39H51N5O7S
